US07700655B2
(1) 4-Benzyloxy-N-[3,5-bis(trifluoromethyl)phenyl]isophthalamic acid methyl ester
Sodium hydride (60%; 1.04 g, 26 mmol) was washed with n-hexane, and suspended in N,N-dimethylformamide (100 mL). A solution of N-[3,5-bis(trifluoromethyl)phenyl]-4-hydroxyisophthalamic acid methyl ester (Compound No. 81; 8.15 g, 20 mmol) in N,N-dimethylformamide (100 mL) was added dropwise under cooling with ice bath. After the addition was finished, the mixture was stirred at room temperature for 1 hour. A solution of benzyl bromide (4.45 g, 26 mmol) in N,N-dimethylformamide (10 mL) was added, and the mixture was stirred at 60° C. for 3 hours. After cooling, the reaction mixture was poured into ice and water, and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, the residue obtained by evaporation under reduced pressure was recrystallized (ethyl acetate/n-hexane) to give the title compound (5.38 g, 54.1%) as a white solid.

reactant | Sodium hydride | 26 mmol, 1.04 g | [H-].[Na+]
reactant | N-[3,5-bis(trifluoromethyl)phenyl]-4-hydroxyisophthalamic acid methyl ester | 20 mmol, 8.15 g | COC(C1=CC(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=C(C=C1)O)=O | C17H11F6NO4
reactant | benzyl bromide | 26 mmol, 4.45 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | n-hexane | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-Benzyloxy-N-[3,5-bis(trifluoromethyl)phenyl]isophthalamic acid methyl ester | 5.38 g, 54.1% | COC(C1=CC(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=C(C=C1)OCC1=CC=CC=C1)=O | C24H17F6NO4
